US08192918B2
5.32 g (40 mmol) 2-aminobenzimidazole and 4.00 (40 mmol) ethyl acrylate were dissolved in 25 ml Proglyde DMM. The reaction mixture was heated to 130° C. and the reaction was allowed to continue for 6 hours at 130° C. The reaction mixture was allowed to cool down to room temperature. Upon standing over night, 3,4-dihydro-pyrimidino[1,2-a]benzimidazol-2(1H)-one crystallized from the medium and was isolated by filtration. 3,4-dihydro-pyrimidino[1,2-a]benzimidazol-2(1H)-one was recrystallized from 1-methoxy-2-propanol. 4.1 g (54.7%) 3,4-dihydro-pyrimidino[1,2-a]benzimidazol-2(1H)-one was isolated (m.p. >260° C.).

reactant | 2-aminobenzimidazole | 40 mmol, 5.32 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
product | 3,4-dihydro-pyrimidino[1,2-a]benzimidazol-2(1H)-one | 4.1 g, 54.7% | N1C(CCN2C1=NC1=C2C=CC=C1)=O | C10H9N3O
